US04959361
1-[3-[4-(2-Chlorophenyl)-9-methyl-6H-thieno[3,2-f][1,2,4]triazolo[4,3-a][1,4]diazepin-2-yl]-2-propynyl]-1H-indole-2,3-dione
This compound was prepared as described in Example 37 by coupling of 4-(2-chlorophenyl)-2-iodo-9-methyl 6H-thieno[ 3,2-f][1,2,4]triazolo[4,3-a] [1,4]diazepine with 1-(2-propynyl)-1H-indole-2,3-dione [ref. A. Lindquist et al., Acta Pharm. Suecica 9, 99 (1972)]. Chromatographic isolation and crystallization from methanol/ethyl acetate gave orange crystals with m.p. 185°-190° C. with foaming at 130°-140° C. These crystals contained according to analytical and spectral data molar amounts of ethyl acetate.

reactant | 4-(2-chlorophenyl)-2-iodo-9-methyl 6H-thieno[ 3,2-f][1,2,4]triazolo[4,3-a] [1,4]diazepine | ClC1=C(C=CC=C1)C1=NCC=2N(C3=C1C=C(S3)I)C(=NN2)C | C15H10ClIN4S
reactant | 1-(2-propynyl)-1H-indole-2,3-dione | C(C#C)N1C(C(C2=CC=CC=C12)=O)=O | C11H7NO2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-[3-[4-(2-Chlorophenyl)-9-methyl-6H-thieno[3,2-f][1,2,4]triazolo[4,3-a][1,4]diazepin-2-yl]-2-propynyl]-1H-indole-2,3-dione | ClC1=C(C=CC=C1)C1=NCC=2N(C3=C1C=C(S3)C#CCN3C(C(C1=CC=CC=C31)=O)=O)C(=NN2)C | C26H16ClN5O2S
